US06153768
Synthesis of (3RS,4RS)-4-[9-(t-butyldimethylsilyloxy)nonynyl]-4-hydoxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran
9-(t-Butyldimethylsilyloxy)-non-1-yne (0.46 g, 1.8 mmol) was dissolved in dry tetrahydrofuran (8 ml) under argon atmosphere and then cooled to -78° C. 2.5M n-Butyllithium (n-BuLi) (0.7 ml, 1.68 mmol) was slowly added dropwise thereto and then the mixture was stirred for 30 minutes. To the mixture was added dropwise 7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran-4-one (200 mg, 6.6 mmol) dissolved in dry tetrahydrofuran (4 ml), and then the reaction mixture was slowly warmed to room temperature. The reaction solution was quenched with water and then extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate and concentrated. The residue was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to obtain 350 mg (yield: >100%) of the title compound as a colorless oil.

reactant | 9-(t-Butyldimethylsilyloxy)-non-1-yne | 1.8 mmol, 0.46 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#C | C15H30OSi
reactant | n-Butyllithium | 1.68 mmol, 2.5M, 0.7 ml | C(CCC)[Li]
reactant | 7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran-4-one | 6.6 mmol, 200 mg | COCOC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)OCOC)=O)C=C1 | C20H22O6
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-[9-(t-butyldimethylsilyloxy)nonynyl]-4-hydoxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 350 mg, yield: >100% | [Si](C)(C)(C(C)(C)C)OCCCCCCCC#CC1(C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC)O | C35H52O7Si
